### PR TITLE
[Merged by Bors] - feat(Topology/Algebra/InfiniteSum): lemmas about tprods in a GroupWithZero

### PR DESCRIPTION
**Pull request by loefflerd**
Show that a sequence with a zero term is always multipliable, and a congruence lemma for `Multipliable` for eventually-equal sequences. (We have [Multipliable.congr_cofinite](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/InfiniteSum/Group.html#Multipliable.congr_cofinite) but that requires the target to be a group under multiplication, which is never satisfied for the underlying multiplicative monoid of a ring; so this new lemma is useful for manipulating products valued in rings / fields.)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/InfiniteSum/Group.lean [hunk 1]
```diff
@@ -397,3 +397,29 @@ theorem tprod_const [T2Space G] (a : G) : ∏' _ : β, a = a ^ (Nat.card β) :=
...
 
 end IsTopologicalGroup
+
+section CommGroupWithZero
+variable {K : Type*} [CommGroupWithZero K] [TopologicalSpace K] [ContinuousMul K]
+
+open Finset in
+lemma Multipliable.congr_cofinite'
+    {f g : α → K} (hf : Multipliable f) (hf' : ∀ a, f a ≠ 0)
+    (hfg : ∀ᶠ a in cofinite, f a = g a) : Multipliable g := by
```
Comment (b-mehta) [inline Mathlib/Topology/Algebra/InfiniteSum/Group.lean:407]: Can we have a `HasProd` and `tsum` version of this too? That is, if `HasProd f c` (and f is nonzero and cofinitely often equal to g) then `HasProd g c` too, and under the same conditions `tsum f = tsum g`.

File: Mathlib/Topology/Algebra/InfiniteSum/Group.lean [hunk 2]
```diff
@@ -397,3 +397,29 @@ theorem tprod_const [T2Space G] (a : G) : ∏' _ : β, a = a ^ (Nat.card β) :=
       simpa [multipliable_const_iff] using ha
 
 end IsTopologicalGroup
+
+section CommGroupWithZero
+variable {K : Type*} [CommGroupWithZero K] [TopologicalSpace K] [ContinuousMul K]
+
+open Finset in
+lemma Multipliable.congr_cofinite'
```
Comment (b-mehta) [inline Mathlib/Topology/Algebra/InfiniteSum/Group.lean:405]:
```suggestion
/--
See also `Multipliable.congr_cofinite`, which instead requires the target to be a group under multiplication (and hence fails for infinite products in a ring.
-/
lemma Multipliable.congr_cofinite'
```
(or something analogous: I think your comment in the PR description is good and should be included as documentation)

File: Mathlib/Topology/Algebra/InfiniteSum/Group.lean (hunk 1 above)
Comment (loefflerd) [reply Mathlib/Topology/Algebra/InfiniteSum/Group.lean:407]: > That is, if HasProd f c (and f is nonzero and cofinitely often equal to g) then HasProd g c too

That isn't true; if you change finitely many terms of a product you certainly also change the limit. 

The closest HasProd analogue I can think of for this would be something like
```
lemma HasProd.congr_cofinite'
    {f g : α → K} {c : K} (hf : HasProd f c) (hf' : ∀ a, f a ≠ 0)
    (s : Finset α) (hs : ∀ a ∉ s, f a = g a) :
     HasProd g (c * ((∏ i ∈ s, g i) / ∏ i ∈ s, f i) := by
  sorry
```
Shall I add this?

File: Mathlib/Topology/Algebra/InfiniteSum/Group.lean (hunk 2 above)
Comment (loefflerd) [reply Mathlib/Topology/Algebra/InfiniteSum/Group.lean:405]: Sure. I can also add a comment to the doc of `Multipliable.congr_cofinite` pointing the other way.

**Comment by loefflerd** [comment]
Here it is with the additional documentation, and with `HasProd` and `tprod` versions. I also adopted the naming `congr_cofinite₀` rather than `congr_cofinite'` since this seems to be a general convention for `GroupWithZero` lemmas.

File: Mathlib/Topology/Algebra/InfiniteSum/Group.lean (hunk 1 above)
Comment (b-mehta) [reply Mathlib/Topology/Algebra/InfiniteSum/Group.lean]: Oops, you're of course correct. That lemma looks helpful, thank you!

File: Mathlib/Topology/Algebra/InfiniteSum/Group.lean [hunk 3]
```diff
@@ -397,3 +402,51 @@ theorem tprod_const [T2Space G] (a : G) : ∏' _ : β, a = a ^ (Nat.card β) :=
...
+      prod_congr rfl fun i hi ↦ hs' i (mem_sdiff.mp hi).2]
+  _ = (∏ i ∈ s, g i) * ∏ i ∈ t \ s, g i := by
+    rw [← mul_div_assoc, ← div_mul_eq_mul_div, ← div_mul_eq_mul_div, div_self, one_mul, mul_comm]
+    exact prod_ne_zero_iff.mpr hs
+  _ = ∏ i ∈ t, g i := by
+    rw [← prod_union disjoint_sdiff, union_sdiff_of_subset ht]
+
+lemma tsum_congr_cofinite₀ [T2Space K] (hc : Multipliable f) {s : Finset α}
+    (hs : ∀ a ∈ s, f a ≠ 0) (hs' : ∀ a ∉ s, f a = g a) :
+    ∏' i, g i =  ((∏' i, f i) * ((∏ i ∈ s, g i) / ∏ i ∈ s, f i)) := by
```
Comment (b-mehta) [inline Mathlib/Topology/Algebra/InfiniteSum/Group.lean:434]: It could be nice to have a "multiplied out" version, ie where both sides are of the form `_ * _`, but this is optional

**Review by b-mehta — APPROVED** [review]

File: Mathlib/Topology/Algebra/InfiniteSum/Group.lean (hunk 3 above)
Comment (loefflerd) [reply Mathlib/Topology/Algebra/InfiniteSum/Group.lean:434]: I'm not sure it would be useful, so let's agree to disagree on that.

File: Mathlib/Topology/Algebra/InfiniteSum/Group.lean [hunk 4]
```diff
@@ -397,3 +402,51 @@ theorem tprod_const [T2Space G] (a : G) : ∏' _ : β, a = a ^ (Nat.card β) :=
...
+ring).
+-/
+lemma Multipliable.congr_cofinite₀ (hf : Multipliable f) (hf' : ∀ a, f a ≠ 0)
+    (hfg : ∀ᶠ a in cofinite, f a = g a) :
+    Multipliable g := by
+  classical
+  obtain ⟨c, hc⟩ := hf
+  obtain ⟨s, hs⟩ : ∃ s : Finset α, ∀ i ∉ s, f i = g i :=
+    ⟨hfg.toFinset, by simp only [Set.Finite.mem_toFinset, Set.mem_compl_iff, Set.mem_setOf_eq,
+      Decidable.not_not, imp_self, implies_true]⟩
```
[the remark this answers is not in the document]
Comment (loefflerd) [reply Mathlib/Topology/Algebra/InfiniteSum/Group.lean:449]: I squeezed it because the unsqueezed simp was taking ~ 1 sec, as long as the rest of the proof put together. Some other bits of the proof got moved around after that though, so I can re-test it again and see if the slow-down is still there. (At work now, will look at it this evening.)

File: Mathlib/Topology/Algebra/InfiniteSum/Group.lean [hunk 5]
```diff
@@ -397,3 +402,49 @@ theorem tprod_const [T2Space G] (a : G) : ∏' _ : β, a = a ^ (Nat.card β) :=
...
+  _ = (∏ i ∈ s, g i) * ∏ i ∈ t \ s, g i := by
+    rw [← mul_div_assoc, ← div_mul_eq_mul_div, ← div_mul_eq_mul_div, div_self, one_mul, mul_comm]
+    exact prod_ne_zero_iff.mpr hs
+  _ = ∏ i ∈ t, g i := by
+    rw [← prod_union disjoint_sdiff, union_sdiff_of_subset ht]
+
+lemma tsum_congr_cofinite₀ [T2Space K] (hc : Multipliable f) {s : Finset α}
+    (hs : ∀ a ∈ s, f a ≠ 0) (hs' : ∀ a ∉ s, f a = g a) :
+    ∏' i, g i = ((∏' i, f i) * ((∏ i ∈ s, g i) / ∏ i ∈ s, f i)) := by
+  refine (hc.hasProd.congr_cofinite₀ hs hs').tprod_eq
```
Comment (b-mehta) [inline Mathlib/Topology/Algebra/InfiniteSum/Group.lean:435]:
```suggestion
    ∏' i, g i = ((∏' i, f i) * ((∏ i ∈ s, g i) / ∏ i ∈ s, f i)) :=
  (hc.hasProd.congr_cofinite₀ hs hs').tprod_eq
```

**Review by b-mehta — APPROVED** [review]
Thanks!

bors d+
